US07320972B2
(3R,4S)-1-(4-Fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4-hydroxyphenyl)azetidin-2-one (150.4 mg, 0.367 mmol) and 4-dimethylaminopyridine (9.4 mg, 0.077 mmol) were dissolved in methylene chloride (10.0 mL). Triethylamine (100 μL, 72.6 mg, 0.717 mmol) was added via syringe followed by N-phenyltrifluoromethanesulfonimide (143.6 mg, 0.402 mmol) added as a solid. The reaction was stirred for 3.5 h at room temperature and then poured into water (40 mL) and extracted with 1:1 ethyl acetate-hexane (75 mL). The organic layer was washed with water (40 mL) and brine (40 mL), then dried over sodium sulfate, filtered, concentrated and purified by chromatography (12 g silica gel, 10% to 90% ethyl acetate-hexane) to afford 4-{(2S,3R)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}phenyl trifluoromethanesulfonate (190.8 mg, 96% yield) as a clear film (eventually becomes a while solid); mp 121.6° C.; Rf 0.38 (2:3 ethyl acetate-hexane); 1H NMR (300 MHz, CDCl3) δ 7.41 (d, J=8.7 Hz, 2H), 7.31-7.26 (m, 4H), 7.19 (dd, J=9.0, 4.6 Hz, 2H), 7.01 (t, J=8.7 Hz, 2H), 6.95 (t, J=8.7 Hz, 2H), 4.71 (t, J=6.0 Hz, 1H), 4.67 (d, J=2.3 Hz, 1H), 3.10-3.04 (m, 1H), 2.08-1.86 (m, 4H) ppm; MS [M−OH] 524.5.

reactant | (3R,4S)-1-(4-Fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-(4-hydroxyphenyl)azetidin-2-one | 0.367 mmol, 150.4 mg | FC1=CC=C(C=C1)N1C([C@@H]([C@H]1C1=CC=C(C=C1)O)CC[C@H](O)C1=CC=C(C=C1)F)=O | C24H21F2NO3
reactant | Triethylamine | 0.717 mmol, 100 μL, 72.6 mg | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 0.402 mmol, 143.6 mg | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | water | 40 mL | O | H2O
catalyst | 4-dimethylaminopyridine | 0.077 mmol, 9.4 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10.0 mL | C(Cl)Cl | CH2Cl2
product | 4-{(2S,3R)-1-(4-fluorophenyl)-3-[(3S)-3-(4-fluorophenyl)-3-hydroxypropyl]-4-oxoazetidin-2-yl}phenyl trifluoromethanesulfonate | 190.8 mg, 96% yield | FC(S(=O)(=O)OC1=CC=C(C=C1)[C@H]1N(C([C@@H]1CC[C@H](O)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F)(F)F | C25H20F5NO5S
